US08497281B2
Step 4: 9H-indeno[2,1-b]pyridine
The title compound is prepared from 2-indanone and propargylamine following a procedure analogous to that described in Step 1 of Intermediates 1 and 2. Yield: 56% of theory; Mass spectrum (ESI+): m/z=168 [M+H]+.

reactant | 2-indanone | C1C(CC2=CC=CC=C12)=O | C9H8O
reactant | propargylamine | C(C#C)N | C3H5N
product | 9H-indeno[2,1-b]pyridine | Yield: 56% | N1=C2C(=CC=C1)C=1C=CC=CC1C2 | C12H9N
